US08383932B2
Synthesis of (2-(3,5-dibromophenyl)benzo[d]thiazole
5.03 g (19.1 mmol) of 3,5-dibromobenzaldehyde and 3.1 mL (28.6 mmol) of 2-aminothiophenol were dissolved in 60 mL of acetic acid. The solution was agitated at room temperature for 30 minutes. 9.78 g (21.0 mmol) of lead (IV) acetate was added thereto. The resulting mixture was agitated at 50° C. for 1 hour. Then, water was poured into the reactant. It was extracted with ethyl acetate. The extract was separated through a column and dried, obtaining 4.74 g (Y=67%) of a white solid.

reactant | 3,5-dibromobenzaldehyde | 19.1 mmol, 5.03 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | 2-aminothiophenol | 28.6 mmol, 3.1 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | lead (IV) acetate | 21.0 mmol, 9.78 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | water | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2-(3,5-dibromophenyl)benzo[d]thiazole | BrC=1C=C(C=C(C1)Br)C=1SC2=C(N1)C=CC=C2 | C13H7Br2NS
